US07572820B2
A. 1,1-Dimethylethyl (4-chloro-5-cyano-2-ethyl-1H-benzimidazol-1-yl)acetate
Synthesized as described in Example 197B from 4-chloro-2-ethyl-1H-benzimidazole-5-carbonitrile and 1,1-dimethylethyl bromoacetate: MS (ESI) m/z 320 (M+1).

reactant | 4-chloro-2-ethyl-1H-benzimidazole-5-carbonitrile | ClC1=C(C=CC=2NC(=NC21)CC)C#N | C10H8ClN3
reactant | 1,1-dimethylethyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | 1,1-Dimethylethyl (4-chloro-5-cyano-2-ethyl-1H-benzimidazol-1-yl)acetate | ClC1=C(C=CC=2N(C(=NC21)CC)CC(=O)OC(C)(C)C)C#N | C16H18ClN3O2
